US04203883
One-thousand-four-hundred-thirteen parts of the prepolymer is charged to a reaction vessel and agitated. A mixture of 34 parts N,N-dimethylethanolamine and 1,390 parts water is then gradually added to the agitating prepolymer over a ten minute period, and the temperature is maintained between 29° to 32° C. Within one to two minutes after the completion of the addition of the N,N-dimethylethanolamine and water, a mixture of 15 parts 1-amino-3-amino-methyl-3,5,5-trimethylcyclohexane and 6 parts diethylenetriamine and 141 parts water is gradually added to the prepolymer dispersion over a four to five minute period, and the temperature is maintained between 32° to 35° C. to form a colloidally dispersed urea-urethane polymer. The acetone and methyl ethyl ketone are then distilled from the dispersion to yield a very stable, essentially organic solvent-free, aqueous colloidal polyurea-urethane ionomer dispersion with the following analysis: nonvolatile content of 39 percent by weight, pH of 9.2, and a viscosity of about 113 Stokes. The colloidal dispersion is only slightly opaque and is infinitely dilutable with water. Films from this product can be cured under ambient conditions and are of very high gloss and have a Shore hardness of A55. The polymer is an elastomer exhibiting an ultimate tensile strength of about 1,200 psi and elongation at break of about 900 percent. The films have very good resistance to water spotting.

reactant | N,N-dimethylethanolamine | CN(CCO)C | C4H11NO
reactant | 1-amino-3-amino-methyl-3,5,5-trimethylcyclohexane | NC1(CC(CC(C1)(C)C)(C)N)C | C10H22N2
reactant | diethylenetriamine | NCCNCCN | C4H13N3
reactant | water | O | H2O
product | urea urethane | NC(=O)N.NC(=O)OCC | InChI=1S/C3H7NO2.CH4N2O/c1-2-6-3(4)5;2-1(3)4/h2H2,1H3,(H2,4,5);(H4,2,3,4)
